Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
Penicillins / oxycodone
 
Attending: ___.
 
Chief Complaint:
asymptomatic lung nodule
 
Major Surgical or Invasive Procedure:
___
Left VATS superior segmentectomy with en bloc wedge resection of 
the posterior basilar segment.

 
History of Present Illness:
Ms. ___ is a ___ yo female, former ___
py smoker,(quit ___ wearing nicotine patch
with hx of COPD. Had a chest CT on ___ for follow up on a 15
mm nodule noted on CT at ___ which revealed a complex
subpleural solid nodule in the left lower lobe measuring 2.8 x
1.5 cm (4:98) with indwelling cystic structures in ill-defined
borders, a 3 mm ground-glass nodule in the right upper lobe
(04:45), and a 3 mm solid nodule in the right upper lobe (4: 
68).
Left lower lobe nodule was biopsied and was found to be lung
adenocarcinoma, predominantly lepidic pattern. 

Patient reports that she has been falling since ___ fall
was on ___ when she sustained a left pelvic fracture managed
conservatively with pain medications and ___. Today she reports
she is able to climb a flight of stairs with no dyspnea, she is
limited mostly by her left hip pain d/t recent fracture, uses a
cane for support. Denies cough, fever, chills, night sweats,
shortness of breath, DOE, neurologic  or any other concerning 
sx.

 
Past Medical History:
COPD
Herpes zoster
Hidradenitis suppurativa s/p surgery
Hypercholesterolemia
Hypertension
Palpitations
Sciatica
Tendinitis, calcifying, shoulder
Ulnar neuropathy, left
Basal cell carcinoma
Lentegines
Seborrheic keratosis, inflamed
Hyperplastic colon polyps
Acitinic keratosis
Depression
Dermatoheliosis
s/p appendectomy ___
 
Social History:
___
Family History:
Mother
Father
___: brother: ___

 
Physical Exam:
BP: 125/67. Heart Rate: 81. O2 Saturation%: 97. Weight: 199 
(With
Clothes; With Shoes). BMI: 35.0. Temperature: 97.7. Resp. Rate:
16. Pain Score: 0. Distress Score: 0.
GENERAL 
[x] WN/WD  [x] NAD  [x] AAO  [ ] abnormal findings:

HEENT          
[x] NC/AT   [] EOMI   [] PERRL/A   [x] Anicteric
[] OP/NP mucosa normal     [] Tongue midline
[] Palate symmetric  [x] Neck supple/NT/without mass
[x] Trachea midline [x] Thyroid nl size/contour
[ ] Abnormal findings:

RESPIRATORY    
[x] CTA/P     [x] Excursion normal     [] No fremitus
[] No egophony    [] No spine/CVAT
[ ] Abnormal findings:

CARDIOVASCULAR 
[x] RRR    [x] No m/r/g    [x] No JVD   [x] PMI nl  [x] No edema
[x] Peripheral pulses nl    [x] No abd/carotid bruit
[ ] Abnormal findings:

GI             
[x] Soft    [x] NT   [x] ND  [] No mass/HSM   [] No hernia
[ ] Abnormal findings:

GU             [x] Deferred  
[ ] Nl genitalia    [ ] Nl pelvic/testicular exam    [ ] Nl DRE
[ ] Abnormal findings:

NEURO          
[x] Strength intact/symmetric    [] Sensation intact/ symmetric
[] Reflexes nl     [x] No facial asymmetry [x] Cognition intact
[] Cranial nerves intact   [ ] Abnormal findings:

MS         
[x] No clubbing   [x] No cyanosis   [x] No edema   [x] Gait nl
[] No tenderness  [] Tone/align/ROM nl   [x] Palpation nl
[x] Nails nl   [ x ]use cane for support] Abnormal findings:

LYMPH NODES   
[x] Cervical nl      [x] Supraclavicular nl     [x] Axillary nl
[] Inguinal nl   [ ] Abnormal findings:

SKIN           
[x] No rashes/lesions/ulcers
[x] No induration/nodules/tightening     [ ] Abnormal findings:

PSYCHIATRIC    
[x] Nl judgment/insight    [x] Nl memory   [x] Nl mood/affect
[ ] Abnormal findings:

 
Pertinent Results:
___ CXR :
  
-New left thoracostomy tube projects over the cardiac silhouette 
on the left. 
-Slight widening of the mediastinum compared to the preoperative 
radiograph, may reflect postoperative changes 
 
___ CXR :
Small left apical pneumothorax status post left chest tube 
removal

 
                     WBC  RBC   Hgb  Hct MCV MCH  MCHC  RDW 
RDWSD Plt Ct 
___ 05:45    10.1* 3.87* 11.2 35.7 92 28.9 31.4* 12.9 
43.3 264 
___ 05:30    12.6* 4.02  11.6 36.8 92 28.9 31.5* 12.6 
42.1 275 
___ 17:00    17.7* 4.32  12.2 38.9 90 28.2 31.4* 12.5 
41.3 288 

                 Glucose UreaN Creat  Na  K  Cl HCO3 AnGap 
___ 05:45    ___  141 4.1 104 29    8* 
___ 05:30    ___  139 4.6 ___ 
 
 
Brief Hospital Course:
Ms. ___ was admitted to the hospital and taken to the Operating 
Room where she underwent a left VATS superior segmentectomy with 
en bloc wedge resection of the posterior basilar segment. She 
tolerated the procedure well and returned to the PACU in stable 
condition. She maintained stable hemodynamics and her pain was 
controlled with IV Tylenol and IV Dilaudid.  her chest tube 
drained a modest amount of thin bloody fluid and had no air 
leak.

Following transfer to the Surgical floor she progressed well.  
her chest tube was removed on post op day #1 as the drainage 
remained minimal and her post pull chest xray showed a tiny left 
apical pneumothorax. Her oxygen was weaned off and her room air 
saturations were 95%.  her port sites were healing well.

The Physical Therapy service evaluated her as she was a bit 
unsteady on her feet and she improved after a few visits but 
home Physical Therapy was recommended and arranged. She was 
discharged to home on ___ and will follow up in the 
Thoracic Clinic in 2 weeks.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Simvastatin 80 mg PO QPM 
2. Multivitamins 1 TAB PO DAILY 
3. Aspirin 81 mg PO DAILY 
4. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H 
RX *acetaminophen 500 mg 2 tablet(s) by mouth every eight (8) 
hours Disp #*100 Tablet Refills:*0 
2.  Docusate Sodium 100 mg PO BID 
RX *docusate sodium 100 mg 1 tablet(s) by mouth twice a day Disp 
#*60 Tablet Refills:*0 
3.  Milk of Magnesia 30 mL PO Q12H:PRN Constipation - First Line 
 
4.  Aspirin 81 mg PO DAILY  
5.  Multivitamins 1 TAB PO DAILY  
6.  Simvastatin 80 mg PO QPM  
7.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Biopsy-proven left lower lobe primary lung adenocarcinoma.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
* You were admitted to the hospital for lung surgery and you've 
recovered well. You are now ready for discharge. 

* Continue to use your incentive spirometer 10 times an hour 
while awake.

* Check your incisions daily and report any increased redness or 
drainage.   Cover the area with a gauze pad if it is draining.

* Your chest tube dressing may be removed tomorrow.  If it 
starts to drain, cover it with a clean dry dressing and change 
it  as needed to keep site clean and dry.

* You may need pain medication once you are home but you can 
wean it over the next week as the discomfort resolves.  Make 
sure that you have regular bowel movements while on narcotic 
pain medications as they are constipating which can cause more 
problems.  Use a stool softener or gentle laxative to stay 
regular.

* No driving while taking narcotic pain medication.

* Take Tylenol on a standing basis to avoid more opiod use.

* Continue to stay well hydrated and eat well to heal your 
incisions

* No heavy lifting > 10 lbs for 4 weeks.

* Shower daily. Wash incision with mild soap & water, rinse, pat 
dry
  * No tub bathing, swimming or hot tubs until incision healed
  * No lotions or creams to incision site

* Walk ___ times a day and gradually increase your activity as 
you can tolerate.

 Call Dr. ___ ___ if you experience:
  -Fevers > 101 or chills
  -Increased shortness of breath, chest pain or any other 
symptoms that concern you.

** If pathology specimens were sent at the time of surgery, the 
reports will be reviewed with you in detail at your follow up 
appointment. This will give both you and your doctor time to 
understand the pathology, its implications and discuss options 
going forward.**
 
Followup Instructions:
___